US08049013B2
3-(4-Bromo-2-methoxy-phenoxy)-1-cyclobutyl-azetidine
Dissolve 3-(4-bromo-2-methoxy-phenoxy)-azetidine (1.84 g, 7.13 mmol) in dichloroethane (80 mL). Add cyclobutanone (1.86 mL, 25 mmol), sodium triacetoxyborohydride (3.02 g, 14.3 mmol) and acetic acid (0.82 mL, 14.3 mmol). Stir the mixture overnight, then add saturated sodium bicarbonate and extract three times using dichloromethane. Dry the combined organic portions over sodium sulfate, filter, and concentrate. Purify by silica gel chromatography using a 0-3% gradient of methanol/dichloromethane to give 1.26 g (56%) of the title compound.

reactant | 3-(4-bromo-2-methoxy-phenoxy)-azetidine | 7.13 mmol, 1.84 g | BrC1=CC(=C(OC2CNC2)C=C1)OC | C10H12BrNO2
reactant | cyclobutanone | 25 mmol, 1.86 mL | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 14.3 mmol, 3.02 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 14.3 mmol, 0.82 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
product | 3-(4-Bromo-2-methoxy-phenoxy)-1-cyclobutyl-azetidine | 1.26 g, 56% | BrC1=CC(=C(OC2CN(C2)C2CCC2)C=C1)OC | C14H18BrNO2
